US07547691B2
(B). Preparation of {2-[5-chloro-2-(3-piperazin-1-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophen-6-yl}-morpholin-4-ylmethanone tri-hydrochloride
Using the method of 2-[5-chloro-2-(3-piperazin-1-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride, the title compound is synthesized from [2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophen-6-yl]-morpholin-4-yl-methanone and 4-(3-aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester and isolated as a yellow solid. ES+(m/z) 501 (35Cl) and 503 (37Cl) [M+H].

reactant | 2-[5-chloro-2-(3-piperazin-1-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophene-4-carboxylic acid cyclopropylamide tri-hydrochloride | Cl.Cl.Cl.C1(CC1)NC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCNCC2
reactant | [2-(2,5-dichloropyrimidin-4-yl)-benzo[b]thiophen-6-yl]-morpholin-4-yl-methanone | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=C(C=C2)C(=O)N2CCOCC2)Cl | C17H13Cl2N3O2S
reactant | 4-(3-aminopropyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)CCCN | C12H25N3O2
product | {2-[5-chloro-2-(3-piperazin-1-ylpropylamino)-pyrimidin-4-yl]-benzo[b]thiophen-6-yl}-morpholin-4-ylmethanone tri-hydrochloride | Cl.Cl.Cl.ClC=1C(=NC(=NC1)NCCCN1CCNCC1)C1=CC2=C(S1)C=C(C=C2)C(=O)N2CCOCC2 | InChI=1S/C24H29ClN6O2S.3ClH/c25-19-16-28-24(27-4-1-7-30-8-5-26-6-9-30)29-22(19)21-14-17-2-3-18(15-20(17)34-21)23(32)31-10-12-33-13-11-31;;;/h2-3,14-16,26H,1,4-13H2,(H,27,28,29);3*1H
